US08609674B2
Methyl 2-(cyclopropanecarboxamido)thiophene-3-carboxylate
Cyclopropanecarbonyl chloride and methyl 2-aminothiophene-3-carboxylate (Aldrich) were processed using method analogous to that described in Example 13A to afford the title compound.

reactant | Cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | methyl 2-aminothiophene-3-carboxylate | NC=1SC=CC1C(=O)OC | C6H7NO2S
product | Methyl 2-(cyclopropanecarboxamido)thiophene-3-carboxylate | C1(CC1)C(=O)NC=1SC=CC1C(=O)OC | C10H11NO3S
